US06949571B2
5-Pyridin-2-yl-2(1H)-pyridone
A mixture of 2-methoxy-5-pyridin-2-yl-pyridine (550 g) and a 4 mol/L aquesous solution of hydrochloric acid (2.4 L) was heated under reflux for 3 hours. After cooling the reaction solution, and washed with tert-butylmethyl ether (2.2 L). To the aqueous layer was added 8 mol/L aqueous solution of sodium hydroxide (1.1 L) under cooling with ice-water, and then the mixture was washed twice with tert-butylmethyl ether (2.2 L) Then, it was adjusted to pH 8 with concentrated hydrochloric acid (310 ml) and 8 mol/L aqueous solution of sodium hydroxide (100 ml), followed by partitioning between 1-butanol (4.5 L) and brine (1.8 L). The aqueous layer was extracted again with 1-butanol (4.5 L), and the combined organic layer was evaporated at 45-50° C. To the resulting residue was added tert-butylmethyl ether (2.2 L), to give crystals. The resulting crystals were collected by filtration under reduced pressure and air-dried at 60° C. Then, water (1.6 L) was added thereto to dissolve under heating. Then the mixture was water-cooled, and recrystallized. The resulting crystals were collected by filtration under reduced pressure and air-dried at 60° C., to give 188 g (66%) of the title compound as grayish white crystals.

reactant | 2-methoxy-5-pyridin-2-yl-pyridine | 550 g | COC1=NC=C(C=C1)C1=NC=CC=C1 | C11H10N2O
reactant | hydrochloric acid | 2.4 L | Cl | ClH
product | 5-Pyridin-2-yl-2(1H)-pyridone | 188 g, 66% | N1=C(C=CC=C1)C=1C=CC(NC1)=O | C10H8N2O
